US08357679B2
B: (R)-1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-3-(hydroxymethyl)piperazine-1-carbonyl)phenyl)urea
To a solution of 4-(3-(cyclopropylmethyl)ureido)benzoic acid (0.487 mmol, 114 mg), (R)-1,1,1,3,3,3-hexafluoro-2-(4-((2-(hydroxymethyl)piperazin-1-yl)methyl)phenyl)propan-2-ol (0.443 mmol, 165 mg) and triethylamine (1.330 mmol, 0.185 mL, 135 mg) in dichloromethane (4 mL) was added 1-propanephosphonic acid cyclic anhydride (0.665 mmol, 0.395 mL, 423 mg, 50% solution in ethyl acetate). The reaction was stirred for 3 hours and then was diluted with dichloromethane/saturated sodium hydrogen carbonate (aqueous). The organic layer was separated, dried (magnesium sulfate) and concentrated under reduced pressure. The residue was purified by silica column chromatography (eluting with ethyl acetate to 5% methanol/ethyl acetate and basic reverse phase HPLC to afford the title compound (92 mg).

reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 0.487 mmol, 114 mg | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | (R)-1,1,1,3,3,3-hexafluoro-2-(4-((2-(hydroxymethyl)piperazin-1-yl)methyl)phenyl)propan-2-ol | 0.443 mmol, 165 mg | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1[C@H](CNCC1)CO)(F)F | C15H18F6N2O2
reactant | triethylamine | 1.330 mmol, 0.185 mL, 135 mg | C(C)N(CC)CC | C6H15N
reactant | 1-propanephosphonic acid cyclic anhydride | 0.665 mmol, 0.395 mL, 423 mg | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (R)-1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-3-(hydroxymethyl)piperazine-1-carbonyl)phenyl)urea | 92 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1C[C@@H](N(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)CO | C27H30F6N4O4
